US04088491
1-Hexadecylsulphonyl-2-indanone
16.6 g of 1-bromo-2-indanone are added with stirring to a hot solution of 26.0 g of potassium hexadecylsulphinate in 100 ml of ethanol. The mixture is stirred for a further 30 minutes without further heating and then precipitated with 100 ml of water. The resulting precipitate is recrystallised from 200 ml of methanol.

reactant | 1-bromo-2-indanone | 16.6 g | BrC1C(CC2=CC=CC=C12)=O | C9H7BrO
reactant | potassium hexadecylsulphinate | 26.0 g | C(CCCCCCCCCCCCCCC)S(=O)[O-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Hexadecylsulphonyl-2-indanone | C(CCCCCCCCCCCCCCC)S(=O)(=O)C1C(CC2=CC=CC=C12)=O | C25H40O3S
